US09056874B2
(±)-4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl)-N,7-dimethyl-1H-indole-5-carboxamide
To a suspension of methylamine hydrochloride (102 mg, 1.51 mmol) in THF (0.5 mL), 2N isopropylmagnesium chloride in THF (1.51 mL, 3.03 mmol) was added. The reaction was stirred at room temperature for 3 hr, then a solution of (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1H-benzo[d]imidazole-5-carbonitrile (30 mg, 0.076 mmol) in THF (0.5 mL) was added. The reaction was allowed to stir at room temperature for 16 hours. The reaction mixture was quenched with 1N HCl aqueous solution and then neutralized by adding NaHCO3. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over Na2SO4. After concentration under reduced pressure, the residue was separated via silica gel flash column chromatography (CH2Cl2/EtOAc=0 to 100%) to give the title compound. 1H NMR (400 MHz, DMSO-d6, with about 3% METHANOL-d4) δ ppm 7.85 (d, J=2.0 Hz, 1H), 7.41-7.46 (m, 2H), 7.39 (d, J=0.8 Hz, 1H), 7.19 (dd, J=8.3, 1.8 Hz, 1H), 6.50 (d, J=2.5 Hz, 1H), 2.96 (s, 3H), 2.58 (s, 3H). HRMS calcd. for C21H16F3N5O2 (M+H)+ 428.1329. found 428.1333.

reactant | methylamine hydrochloride | 1.51 mmol, 102 mg | Cl.CN
reactant | (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1H-benzo[d]imidazole-5-carbonitrile | 0.076 mmol, 30 mg | CC=1C=C2C(=C3C=CNC13)C(OC2=O)(C(F)(F)F)C2=NC1=C(N2)C=CC(=C1)C#N | C20H11F3N4O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | isopropylmagnesium chloride | 2N | C(C)(C)[Mg]Cl
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 3.03 mmol, 1.51 mL | C1CCOC1 | C4H8O
product | (±)-4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl)-N,7-dimethyl-1H-indole-5-carboxamide | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(O)C2=C3C=CNC3=C(C=C2C(=O)NC)C)C=C1 | C21H16F3N5O2
